US07008945B1
In an analogous procedure to that described in the fifth paragraph of the portion of Note a) which is concerned with the preparation of starting materials, N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-chloro-2-nitrobenzamide was reacted with N-(3-methylaminopropyl)-N-methylamine to give N-[2-methyl-5-(2-morpholinopyrid4-ylcarbonylamino)phenyl]-5-[N-(3-methylaminopropyl)-N-methylamino]-2-nitrobenzamide: NMR Spectrum: (DMSOd6) 1.61–1.74 (m, 2H), 2.35 (s, 3H), 2.26 (m, 3H), 2.38–2.44 (m, 2H), 3.09 (s, 3H), 3.5–3.55 (m, 6H), 3.7–3.74 (m, 4H), 6.78 (s, 1H), 6.84 (d, 1H), 7.14 (d, 1H), 7.21 (d, 1H), 7.27 (s, 1H), 7.6 (d, 1H), 7.9 (s, 1H), 8.04 (d, 1H), 8.27 (d, 1H), 9.83 (s, 1H), 10.55 (s, 1H); Mass Spectrum: M+H+ 562.

reactant | N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-chloro-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C24H22ClN5O5
reactant | N-(3-methylaminopropyl)-N-methylamine | CNCCCNC | C5H14N2
product | N-[2-methyl-5-(2-morpholinopyrid4-ylcarbonylamino)phenyl]-5-[N-(3-methylaminopropyl)-N-methylamino]-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C=CC(=C1)N(C)CCCNC)[N+](=O)[O-])=O | C29H35N7O5
